US04349568
4-(4-(Methylsulfonyl)phenoxy)-1-methoxybenzene
To a solution of 38.1 g of 4-chlorophenyl methyl sulfone and 37.2 g of 4-methoxyphenol dissolved in 150 ml of sulfolane was added 41.5 g of K2CO3. The mixture was heated at 160° C. for 7 hrs and then at 170° C. for 14.5 hrs and cooled. The mixture was poured into aqueous NaOH and the crystalline product collected by filtration, washed well with water and dried, which gave 47.5 g (85.3% yield) of product. Recrystallization from ethanol gave purified 4-(4-(methylsulfonyl)phenoxy)-1-methoxybenzene, mp 151.5°-153° C.

reactant | 4-chlorophenyl methyl sulfone | 38.1 g | CS(=O)(=O)C1=CC=C(C=C1)Cl | C7H7ClO2S
reactant | 4-methoxyphenol | 37.2 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | K2CO3 | 41.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | [OH-].[Na+]
solvent | sulfolane | 150 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 4-(4-(Methylsulfonyl)phenoxy)-1-methoxybenzene | 47.5 g, 85.3% yield | CS(=O)(=O)C1=CC=C(OC2=CC=C(C=C2)OC)C=C1 | C14H14O4S
